US04322429
2-HYDROXY-4-(TRIFLUOROMETHYL)BENZONITRILE
2-(Benzyloxy)-4-(trifluoromethyl)benzonitrile (~20 grams) in 350 ml. acetic acid and 100 ml. 33% HBr was stirred overnight, refluxed for four hours, and then stirred overnight again. Next the reaction mixture was stripped to a small volume and poured into ice water. The crude precipitate which formed was stirred in hexane, filtered, and was identified by NMR as the desired product, yield 9.3 grams.

reactant | 2-(Benzyloxy)-4-(trifluoromethyl)benzonitrile | ~20 grams | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1)C(F)(F)F | C15H10F3NO
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-HYDROXY-4-(TRIFLUOROMETHYL)BENZONITRILE | OC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H4F3NO
